data/rdb19/train.csv
rxn,smiles,ea
750,[C:19]([C:20]([O:21][C:22](=[O:23])[C:24]([H:25])[C:26]([C:27]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20]([O:21][C:22](=[O:23])[C:24]([H:25])=[C:26]([C:27]([H:35])([H:36])[H:37])[H:34])([H:31])[H:32])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6])([N:7]([H:17])[H:18])[H:33])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],53.571449102368206
2141,[C:11]([C:12]([C:13]([H:14])[H:15])([O:16][C:17](=[O:18])[C:19]([H:24])([H:25])[H:26])[H:23])([H:20])([H:21])[H:22].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[H:8][C:13]([C:12]([C:11]([H:20])([H:21])[H:22])([O:16][C:17](=[O:18])[C:19]([H:24])([H:25])[H:26])[H:23])([H:14])[H:15].[N:1]([C:2](=[O:3])[C:4]=[C:5]([H:9])[H:10])([H:6])[H:7],23.885454017377924
1421,[C:10]([O:11][C:12](=[O:13])[C:14]([C:15]([H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[C:17]([H:18])[H:19])([H:20])([H:21])[H:22].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[C:17]([C:14]([C:12]([O:11][C:10]([H:20])([H:21])[H:22])=[O:13])([C:15]([H:23])([H:24])[H:25])[C:16]([H:26])([H:27])[H:28])([H:18])[H:19])[H:6],26.068566247588024
4890,[C:15](=[C:16]([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:20])[H:21].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])([H:7])[O:19][C:18]([N:17]([C:16](=[C:15]([H:20])[H:21])[H:22])[H:23])[H:24])[H:11])([H:8])([H:9])[H:10],30.90268378867768
2379,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:24])([H:25])[H:26])([c:12]1[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]1[H:31])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[C:9]([C:10]([C:11]([H:24])([H:25])[H:26])([c:12]1[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]1[H:31])[H:23])([H:21])[H:22].[H:5][C:8]([H:18])([H:19])[H:20],83.29577836388489
3717,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21][c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:29])([H:10])[H:11])([H:7])([H:8])[H:9],27.61904729460366
237,[O:1]([C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:8])[O:12][O:11][H:13])[H:7])[H:6]>>[C:5]([H:14])([H:15])[H:16].[O:1]([C:2]1([H:7])[C:3]([H:8])([O:12][O:11][H:13])[C:4]1([H:9])[H:10])[H:6],59.99980995047372
117,[C:12]([C:13](=[C:14]([H:21])[H:22])[C:15](=[O:16])[O:17][H:23])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[O:16][C:15]([C:13]([C:12]([H:18])([H:19])[H:20])=[C:14]([H:21])[H:22])[O:17][H:23])([H:6])([H:7])[H:8],30.657792706333566
3693,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:22]1([H:36])[C:21]([C:19]([C:18]([C:17]([H:27])([H:28])[H:29])([H:30])[H:31])([C:20]([H:33])([H:34])[H:35])[H:32])[C:26]([H:40])=[C:25]([H:39])[C:24]([H:38])=[C:23]1[H:37])([H:10])[H:11])([H:7])([H:8])[H:9],21.52278502809349
693,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6])([N:7]([H:17])[H:18])[C:21]([C:20]([C:19]([H:26])([H:27])[H:28])([H:29])[H:30])([H:22])[C:23](=[O:24])[N:25]([H:31])[H:32])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[C:21]([C:20]([C:19]([H:26])([H:27])[H:28])([H:29])[H:30])([H:22])[C:23](=[O:24])[N:25]([H:31])[H:32])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:7]([H:17])[H:18],13.037297968927303
88,[C:12]([O:13][C:14](=[O:15])[C:16](=[C:17]([H:22])[H:23])[C:18]([H:24])([H:25])[H:26])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:14](=[O:15])[C:16](=[C:17]([H:22])[H:23])[C:18]([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[O:13][C:12]([H:19])([H:20])[H:21])([H:6])([H:7])[H:8],58.87148334342055
